US04407803
A stirred slurry of 2-amino-4-phenylquinoline (22 g.) in concentrated hydrochloric acid (50 ml.) was treated dropwise at 0° C. or below with sodium nitrite (7.0 g.) in cold water (35 ml.). The mixture was stirred for 0.5 hours at about 0° C. Stannous chloride dihydrate (56.7 g.) in cold concentrated hydrochloric acid (70 ml.) was added at 0° C. dropwise. The slurry was refrigerated overnight, filtered, and the precipitate was washed with saturated sodium chloride. The filtered solid was treated with excess concentrated sodium hydroxide solution and the hydrazine was extracted into ethyl acetate. The organic extract was washed, dried, decolorized and saturated with dry hydrogen chloride. On removal of the solvent, 2-hydrazino-4-phenylquinoline dihydrochloride was obtained. This compound was reacted with acrylonitrile using the same procedure described in Example 1.

reactant | 2-amino-4-phenylquinoline | 22 g | NC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H12N2
reactant | sodium nitrite | 7.0 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | hydrochloric acid | 70 ml | Cl | ClH
solvent | water | 35 ml | O | H2O
product | 2-hydrazino-4-phenylquinoline dihydrochloride | Cl.Cl.N(N)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | InChI=1S/C15H13N3.2ClH/c16-18-15-10-13(11-6-2-1-3-7-11)12-8-4-5-9-14(12)17-15;;/h1-10H,16H2,(H,17,18);2*1H
